US04894386
j. 4-[6-(Cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxybenzoicacid.
A solution of methyl 4-[6-(N-cyclopentyl-methylcarbamoylmethyl)indol-1-ylmethyl]-3-methoxybenzoate (1.34 g) in a combination of methanol (7.5 ml), tetrahydrofuran (7.5 ml), and water (3 ml) was treated with lithium hydroxide monohydrate (0.78 g). The mixture was stirred for 6 hr and then evaporated to remove the organic solvents. The resultant aqueous solution was acidified with 10% (v/v) hydrochloric acid. The white precipitate which formed was collected by filtration, washed with water, and dried under vacuum to give the title compound (0.70 g, 54%) as a white powder; mp 188°-189°.

reactant | methyl 4-[6-(N-cyclopentyl-methylcarbamoylmethyl)indol-1-ylmethyl]-3-methoxybenzoate | 1.34 g | C1(CCCC1)N(C(=O)CC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C26H30N2O4
reactant | methanol | 7.5 ml | CO | CH4O
reactant | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.78 g | O.[OH-].[Li+]
solvent | water | 3 ml | O | H2O
product | 4-[6-(Cyclopentylmethylcarbamoyl)methylindol-1-ylmethyl]-3-methoxybenzoicacid | 0.70 g, 54% | C1(CCCC1)CNC(=O)CC1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC | C25H28N2O4
